US08039463B2
HOBt (44 mg, 0.3 mmol) and DMAP (47 mg, 0.38 mmol) were added to a stirred solution of 3-oxo-3-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-propionic acid (102 mg, 0.29 mmol) in DMF (5 mL). The reaction mixture was cooled to 10° C. and EDCI.HCl (68 mg, 0.35 mmol) followed by biphenyl-3-yl-amine (55 mg, 0.32 mmol) were added. The reaction mixture was stirred at room temperature overnight, then diluted with water and the product extracted with ethyl acetate. The ethyl acetate was washed with brine solution, dried over Na2SO4 and concentrated. The residue was purified by column chromatography using silica gel 60-120 mesh using 70% ethyl acetate in hexane to afford 64 mg (44%) of N-biphenyl-3yl-3-oxo-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-propionamide. LCMS: 496.18 (M+1)+, 98.7%. 1H NMR: (DMSO-d6): δ10.2 (d, 2H), 7.94-7.8 (dd, 2H), 7.8 (t, 1H), 7.7-7.52 (m, 5H), 7.52 (t, 2H), 7.42-7.32 (bs, 3H), 3.86-3.5 (m, 6H), 3.5-3.38 (m, 2H), 3.22 (d, 2H).

reactant | HOBt | 0.3 mmol, 44 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 3-oxo-3-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-propionic acid | 0.29 mmol, 102 mg | O=C(CC(=O)O)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C15H15F3N2O4
reactant | EDCI.HCl | 0.35 mmol, 68 mg | CCN=C=NCCCN(C)C.Cl
reactant | biphenyl-3-yl-amine | 0.32 mmol, 55 mg | C1(=CC(=CC=C1)N)C1=CC=CC=C1 | C12H11N
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 0.38 mmol, 47 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | water | O | H2O
product | N-biphenyl-3yl-3-oxo-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-propionamide | 64 mg, 44% | C1(=CC(=CC=C1)NC(C(C=O)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O)=O)C1=CC=CC=C1 | C27H24F3N3O3
